US08748632B2
BBr3 (1.836 g, 7.35 mmol) was added dropwise to a solution of 2-cyclopentyl-7-methoxy-3,4-dihydroisoquinolin-1(2H)-one (0.600 g, 2.45 mmol) in benzene (50 mL) at 0° C. The mixture was gradually warmed to room temperature and then heated at 80° C. for 30 min. The reaction mixture was then cooled to room temperature and carefully quenched with H2O. The resulting mixture was then heated at reflux for 1 hour and then cooled. Extraction with ethyl acetate and removal of the solvent in vacuo, followed by chromatographic separation (silica gel, CHCl3: CH3OH, 9:1) afforded 2-cyclopentyl-7-hydroxy-3,4-dihydroisoquinolin-1(2H)-one as a colorless solid (0.373 g, 66%). 1H NMR (DMSO-D6): δ 9.42 (s, 1H), 7.25 (s, 1H), 7.02 (d, 1H, J=8.6 Hz), 6.80 (d, 1H, J=8.5 Hz), 4.97-4.93 (m, 1H), 3.32 (t, 2H, J=6.1 Hz), 2.73 (t, 2H, J=6.7 Hz), 1.73-1.64 (m, 4H), 1.53-1.45 (m, 4H). LC-MS (ESI) Calcd for C14H17NO2 [M+H]+: 232.13. Found: 232.00.

reactant | BBr3 | 7.35 mmol, 1.836 g | B(Br)(Br)Br | BBr3
reactant | 2-cyclopentyl-7-methoxy-3,4-dihydroisoquinolin-1(2H)-one | 2.45 mmol, 0.600 g | C1(CCCC1)N1C(C2=CC(=CC=C2CC1)OC)=O | C15H19NO2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-cyclopentyl-7-hydroxy-3,4-dihydroisoquinolin-1(2H)-one | 0.373 g, 66% | C1(CCCC1)N1C(C2=CC(=CC=C2CC1)O)=O | C14H17NO2
